US03944666
The starting material, butyl phenylphosphonochloridate, was prepared from dichlorophenylphosphine as follows: To a cold, stirred solution of 30.0 g of butanol and 41.4 g of trtiethylamine in about 300 ml of ethyl ether was added dropwise a solution of 34.6 g of dichlorophenylphosphine in about 200 ml of ethyl ether while the temperature was maintained below 0°. When addition was completed, the mixture was allowed to warm to room temperature. Stirring was continued overnight. The mixture was filtered, and the filtrate was concentrated under reduced pressure. The residual oil was distilled under reduced pressure to give 39.5 g of dibutyl phenylphosphonite, b.p. 120°-131°/ca 1.0 mm. Chlorine gas was bubbled into 38.5 g of dibutyl phenylphosphonite for about three hours. The mixture was warmed to 50° under aspirator vacuum to remove butyl chloride. The residual colorless oil was dissolved in 100 ml of benzene, washed with 1% sodium hydroxide and with water, dried over magnesium sulfate, and the dried solution concentrated under reduced pressure to give 30.6 g of pale yellow butyl phenylphosphonochloridate.

reactant | butyl phenylphosphonochloridate | C1(=CC=CC=C1)P(OCCCC)(=O)Cl | C10H14ClO2P
reactant | dichlorophenylphosphine | ClP(C1=CC=CC=C1)Cl | C6H5Cl2P
reactant | butanol | 30.0 g | C(CCC)O | C4H10O
reactant | dichlorophenylphosphine | 34.6 g | ClP(C1=CC=CC=C1)Cl | C6H5Cl2P
solvent | ethyl ether | about 300 ml | C(C)OCC | C4H10O
solvent | ethyl ether | about 200 ml | C(C)OCC | C4H10O
product | dibutyl phenylphosphonite | 39.5 g | C1(=CC=CC=C1)P(OCCCC)OCCCC | C14H23O2P
